US04134901
Synthesis of 2,5-diethyl-4-mercaptotetrahydrofuran-3-one
A solution of 1.4 g of 2,5-diethyl-4-benzylthio-2,3-dihydrofuran-3-one in 50 ml anhydrous ether was treated with 0.88 g of sodium in liquid ammonia as described in Example A7. After working up the reaction mixture the title compound could be isolated by preparative gaschromatography. Relative retention time as compared with 43.1 minutes for dodecane was 51.9 minutes.

reactant | 2,5-diethyl-4-benzylthio-2,3-dihydrofuran-3-one | 1.4 g | C(C)C1OC(=C(C1=O)SCC1=CC=CC=C1)CC | C15H18O2S
reactant | sodium | 0.88 g | [Na] | Na
reactant | ammonia | N | H3N
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2,5-diethyl-4-mercaptotetrahydrofuran-3-one | C(C)C1OC(C(C1=O)S)CC | C8H14O2S
